US06335451B1
a) 4′-(5-Acetyl-4-methoxy-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfon-amide
760 mg of 4′-(5-acetyl-4-chloro-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfonamide and 650 mg of NaOH are refluxed for 22 h in 10 ml of methanol. The solvent is then removed in vacuo, the residue is taken up in 20 ml of water, and the solution is adjusted to pH=6 using a 10% aqueous HCl solution and extracted 3 times using 50 ml of EA each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. Chromatography on silica gel using MTB/DIP 1:1 yields 230 mg of a viscous oil.

reactant | 4′-(5-acetyl-4-chloro-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfonamide | 760 mg | C(C)(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)C1=CC=CC=C1)Cl | C24H20ClN3O3S
reactant | NaOH | 650 mg | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
product | 4′-(5-Acetyl-4-methoxy-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfon-amide | 230 mg | C(C)(=O)C1=C(N=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)C1=CC=CC=C1)OC | C25H23N3O4S
